US05330990
5-(2-Aminophenyl)-3-cyclopropyl-1,2,4-oxadiazole
Methyl 2-amino-benzoate (6 g, 40 mmol) and cyclopropylcarboxamid oxime (5 g, 50 mmol) was refluxed for 10 h in dry ethanol containing 0.25 g sodium and 2 g molecular sieves. The mixture was filtered while hot, and cooled precipitating 2.8 g of the desired product as white needles. Upon additionof water to the flitrate, a further amount of 3.2 g white crystals could beisolated. M.p. 84.4°-84.9° C.

reactant | Methyl 2-amino-benzoate | 40 mmol, 6 g | NC1=C(C(=O)OC)C=CC=C1 | C8H9NO2
reactant | cyclopropylcarboxamid oxime | 50 mmol, 5 g | C1(CC1)C(N)=NO | C4H8N2O
solvent | ethanol | 0.25 g | C(C)O | C2H6O
product | 5-(2-Aminophenyl)-3-cyclopropyl-1,2,4-oxadiazole | NC1=C(C=CC=C1)C1=NC(=NO1)C1CC1 | C11H11N3O
